US04140855
Formaldehyde, 37%, is added to the vessel with constant agitation and maintaining the temperature within the preferred 55°-60° C. range. The formaldehyde is added over a 21/2-6 hour addition period. Preferably, the formaldehyde is added in about 3-4 hours addition time. Addition times of less than 21/2 hours produce, 4,4'-(2-ethyl-2-nitrotrimethylene)dimorpholine and addition times of longer than 6 hours have no appreciable effect on product formation. Longer addition times than 6 hours and interruptions during addition produce no deleterious effects on the product quality or yield of the 2-nitrobutylmorpholine. The reaction mixture is held at the preferred temperature for a combined addition and holding period of 41/2-8 hours. Preferably, the reaction mixture is held for a minimum of two hours after the addition of the formaldehyde. During the holding period, the reaction goes to completion and any of the dimorpholine product formed converts to 2-nitrobutylmorpholine.

reactant | Formaldehyde | C=O | CH2O
reactant | 4,4'-(2-ethyl-2-nitrotrimethylene)dimorpholine | C(C)C(CN1CCOCC1)(CN1CCOCC1)[N+](=O)[O-] | C13H25N3O4
product | 2-nitrobutylmorpholine | [N+](=O)([O-])C(CN1CCOCC1)CC | C8H16N2O3
